US04523021
Sodium hydride (0.192 g., 50% w/w oil dispersion) was added to a stirred solution of 1'-(3,4-dichlorobenzyl)-spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione (1.5 g.) in dry N,N-dimethylformamide (DMF) (20 ml.) under a nitrogen atmosphere. The solution was stirred for 30 minutes and then chloromethyl pivaloate (0.60 g.) was added. The mixture was stirred for 20 hours and then poured into water (30 ml.) The mixture obtained was extracted with ethyl acetate (2×40 ml.). The combined extracts were washed with water (2×15 ml.) dried (MgSO4) and evaporated. The residue was dissolved in ethyl acetate (20 ml.). Chromatographic silica gel (10 g.) was added to the solution and then the solvent was evaporated. The residue was added to a column of silica gel (400 g.) made up in ethyl acetate/petrol (60-80 (1:1 v/v). This solvent mixture was used to elute the column. Evaporation of those combined fractions of eluate containing the major component [relative flow value 0.6, as judged by TLC (SiO2 : 50% v/v EtOAc/toluene)] gave 1'-(3,4-dichlorobenzyl)-1-pivaloyloxymethyl-spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione as an oil which solidified slowly to give a solid (0.55 g.), m.p. 134°-135° C. (cyclohexane).

reactant | Sodium hydride | 0.192 g | [H-].[Na+]
reactant | 1'-(3,4-dichlorobenzyl)-spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione | 1.5 g | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)C(NC(C3)=O)=O)=O)C=CC1Cl | C18H12Cl2N2O3
reactant | chloromethyl pivaloate | 0.60 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1'-(3,4-dichlorobenzyl)-1-pivaloyloxymethyl-spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)C(N(C(C3)=O)COC(C(C)(C)C)=O)=O)=O)C=CC1Cl | C24H22Cl2N2O5
